US09102621B2
Methyl 4-(bromomethyl)-2,5-difluorobenzoate
A solution of methyl 2,5-difluoro-4-methylbenzoate (Preparation 2, 500 mg, 2.69 mmol), N-bromosuccinimide (526 mg, 2.96 mmol) and dibenzoyl peroxide (20 mg, 0.08 mmol) dissolved in carbon tetrachloride (10 mL) was heated to reflux at 85° C. for 18 hours. The mixture was cooled to room temperature, dichloromethane (20 mL) added and the mixture poured into a separating funnel. The resulting organic layer was separated and washed successively with water (20 mL) and aqueous sodium thiosulphate solution (20 mL). The organic layer was dried over magnesium sulphate and filtered. The solvent was removed under reduced pressure to give an oil (748 mg). The crude product was purified by flash column chromatography (Biotage™ 50 g silica cartridge) eluting with 10% ethyl acetate in heptane to give the title compound (479 mg, 67%) as an oil.

reactant | methyl 2,5-difluoro-4-methylbenzoate | 2.69 mmol, 500 mg | FC1=C(C(=O)OC)C=C(C(=C1)C)F | C9H8F2O2
reactant | N-bromosuccinimide | 2.96 mmol, 526 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | carbon tetrachloride | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | dibenzoyl peroxide | 0.08 mmol, 20 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | Methyl 4-(bromomethyl)-2,5-difluorobenzoate | 748 mg | BrCC1=CC(=C(C(=O)OC)C=C1F)F | C9H7BrF2O2
